US04230703
A mixture of ethyl 5,6-dihydro-11-oxodibenz[b,e]azepine-2-acetate (0.333 g), methanol (20 ml) sodium hydroxide (1 g) and water (20 ml) was heated under refluxing for 3 hours. After removal of the solvent by distillation, water was added to the mixture, and then, 5% sulfuric acid was added. The precipitated crystals were collected by filtration, washed in water, and dried to obtain 5,6-dihydro-11-oxodibenz[b,e]azepine-2-acetic acid (0.206 g). m.p.: 135°-145° C.

reactant | ethyl 5,6-dihydro-11-oxodibenz[b,e]azepine-2-acetate | 0.333 g | O=C1C2=C(NCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OCC | C18H17NO3
reactant | methanol | 20 ml, 1 g | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 5,6-dihydro-11-oxodibenz[b,e]azepine-2-acetic acid | 0.206 g | O=C1C2=C(NCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H13NO3
